US08685969B2
2. 7-(2-Methoxyethoxy)-1-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-5H-pyridazino[4,5-b]indole-4-carboxamide
A sealed pressure tube containing 1-(3-amino-2-methylphenyl)-7-(2-methoxyethoxy)-5H-pyridazino[4,5-b]indole-4-carboxamide (0.2785 g, 0.712 mmol), trimethoxymethane (0.701 mL, 6.40 mmol), 1H-benzo[d][1,3]oxazine-2,4-dione (0.232 g, 1.423 mmol), and lanthanum nitrate hexahydrate (0.092 g, 0.213 mmol) in tetrahydrofuran (3.56 mL) was heated at 95° C. for 6 hr and cooled to room temperature. EtOAc (100 mL) was added, and the resulting mixture was washed with water (20 mL), 1N aq. NaOH (20 mL), water (20 mL) and brine (20 mL) successively. It was then dried over MgSO4 and concentrated in vacuo to give a residue which was purified by flash chromatography using an ISCO 24 g column eluting with 1-10% MeOH/CH2Cl2 to give crude product. This crude was dissolved in DMSO (0.2 mL) and MeOH (0.6 mL) and purified by reverse phase HPLC. The appropriate fractions were collected, basified with NaHCO3 (solid), and concentrated in vacuo. The residue was extracted with CH2Cl2 (3×). The combined extract was dried over Na2SO4 and concentrated in vacuo to give (0.0163 g, 0.031 mmol, 4.4% yield) as a light yellow solid. LC/MS (M+H)=521.18; 1H NMR (500 MHz, DMSO-d6) (recognizable peaks for the major atropoisomer) δ ppm 12.24 (s, 1H), 8.76 (br. S, 1H), 8.71 (br. S, 1H), 8.53 (s, 1H), 8.48 (s, 1H), 8.26 (t, J=6.9 Hz, 1H), 8.00 (br. S, 1H), 7.89-7.94 (m, 1H), 7.80 (s, 1H), 7.74 (d, J=5.6 Hz, 1H), 7.60-7.70 (m, 2H), 7.41 (d, J=2.2 Hz, 1H), 6.88 (d, J=8.9 Hz, 1H), 4.15-4.21 (m, 2H), 3.72 (t, J=4.3 Hz, 2 H), 3.33 (s, 3H), 1.81 (s, 3H).

reactant | 1-(3-amino-2-methylphenyl)-7-(2-methoxyethoxy)-5H-pyridazino[4,5-b]indole-4-carboxamide | 0.712 mmol, 0.2785 g | NC=1C(=C(C=CC1)C1=NN=C(C=2NC=3C=C(C=CC3C21)OCCOC)C(=O)N)C | C21H21N5O3
reactant | trimethoxymethane | 6.40 mmol, 0.701 mL | COC(OC)OC | C4H10O3
reactant | 1H-benzo[d][1,3]oxazine-2,4-dione | 1.423 mmol, 0.232 g | N1C(OC(C2=C1C=CC=C2)=O)=O | C8H5NO3
reactant | lanthanum nitrate hexahydrate | 0.213 mmol, 0.092 g | O.O.O.O.O.O.[N+](=O)([O-])[O-].[La+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
solvent | tetrahydrofuran | 3.56 mL | O1CCCC1 | C4H8O
solvent | DMSO | 0.2 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 7-(2-Methoxyethoxy)-1-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-5H-pyridazino[4,5-b]indole-4-carboxamide | 4.4% yield | COCCOC=1C=CC=2C3=C(NC2C1)C(=NN=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C(=O)N | C29H24N6O4
